US09302994B2
N-Methyl-3-Pentafluoroethyl-4-Trifluoromethyl-5-Fluoro-1H-Pyrazole
In a 3-kneck flask equipped with condenser, thermometer, and a dropping funnel 130 ml methylene chloride and perfluoro-2-methyl-2-pentene (19.6 g, 0.065 mol) was placed and then 15 ml water were added. The mixture was cooled to 0° C. and Et3N (16.4 g, 0.16 mol) was added at a temperature ranging from 0° C. to 5° C. The mixture was stirred at this temperature for 15 min and 40% solution of methylhydrazine in water (7.4 g) was slowly added to this mixture at 0° C. The reaction mixture was stirred for 1 h at 5° C. and finally for 1.5 h at 20° C. The mixture was washed with water (3×50 ml), the organic layer was dried over Na2SO4 and the solvent was distilled off under atmospheric pressure. The crude product was purified via vacuum distillation. The yield of N-methyl-3-pentafluoroethyl-4-trifluoromethyl-5-fluoro-1H-pyrazole was 13.9 g. (75%), boiling point 62-65° C. at 17 mbar.

reactant | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
reactant | perfluoro-2-methyl-2-pentene | 0.065 mol, 19.6 g | FC(C(=C(C(C(F)(F)F)(F)F)F)C(F)(F)F)(F)F | C6F12
reactant | Et3N | 0.16 mol, 16.4 g | CCN(CC)CC | C6H15N
reactant | methylhydrazine | CNN | CH6N2
solvent | water | 7.4 g | O | H2O
solvent | water | 15 ml | O | H2O
product | N-Methyl-3-Pentafluoroethyl-4-Trifluoromethyl-5-Fluoro-1H-Pyrazole | CN1N=C(C(=C1F)C(F)(F)F)C(C(F)(F)F)(F)F | C7H3F9N2
